US06166003
3-Thienyl lithium was generated from 3-bromothiophene and n-butyl lithium at -70° C. To the 3-thienyl lithium was then added an excess of 1-chloro-4-iodobutane at dry ice-acetone temperature. Upon slow warm up to room temperature a mixture of 2 and 3-thienyl butylchloride were obtained. The mixture was converted to the 2- and 3-thienyl butyl amines via the azide intermediates (Scheme 9) as described for the synthesis of 2-thienyl butyl amine, then reacted with thiophosgene to give the desired product, 3-TBITC, in low yield. The 2 isomers were separated by preparative liquid chromatography using a recycling mode. The 3-TBITC was obtained in 97% purity.

reactant | 3-Thienyl lithium | S1C=C(C=C1)[Li]
reactant | 3-bromothiophene | BrC1=CSC=C1 | C4H3BrS
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 1-chloro-4-iodobutane | ClCCCCI | C4H8ClI
reactant | dry ice acetone | C(=O)=O.CC(=O)C
product | 3-thienyl butylchloride | S1C=C(C=C1)CCCCCl | C8H11ClS
